### ISSUE TITLE
recursion depth problem in chapter 7 examples

### ISSUE THREAD

**Issue by ketilwright** [leanprover/theorem_proving_in_lean4#134]
These examples in Chapter 7, Inductive Types raise recursion depth errors:

```
namespace Hidden
theorem add_zero (n : Nat) : n + 0 = n := Nat.add_zero n
open Nat

theorem zero_add (n : Nat) : 0 + n = n := by
  induction n <;> simp [*, add_zero, add_succ]

theorem succ_add (m n : Nat) : succ m + n = succ (m + n) := by
  induction n <;> simp [*, add_zero, add_succ]

theorem add_comm (m n : Nat) : m + n = n + m := by
  induction n <;> simp [*, add_zero, add_succ, succ_add, zero_add]

theorem add_assoc (m n k : Nat) : m + n + k = m + (n + k) := by
  induction k <;> simp [*, add_zero, add_succ]
end Hidden

```

As suggested, I tried set_option maxRecDepth 10000 (which I pulled out of thin air) which didn't help. So I set it to 1000000, at which point we get a "stack overflow detected" message.

**Comment by ketilwright** [comment]
Lean (version 4.12.0, x86_64-apple-darwin22.6.0, commit dc2533473114, Release)

**Comment by rudynicolop** [comment]
I get the same errors on:
```
Lean (version 4.14.0, x86_64-unknown-linux-gnu, commit 410fab728470, Release)
```

**Comment by MichaelJFishman** [comment]
I get this error on `leanprover/lean4:v4.11.0-rc3`.

Removing `add_succ` from the `simp` solves it for me.

```lean
theorem zero_add_short (n : Nat) : 0 + n = n :=
  Nat.recOn (motive := fun x => 0 + x = x) n
    rfl
    (fun n ih => by simp [ih])
```
